US06339044B1
10.0 g (65 mmol) of 4-cyano-2,5-difluoro-aniline are introduced into 100 ml of toluene and 8.2 g (71 mmol) of thiophosgene are slowly added to the mixture heated to 80° C. to 90° C. The reaction mixture is then refluxed for approximately 40 hours. Then, after the solvent has been carefully distilled off under reduced pressure, the product (4-cyano-2,5-difluoro-phenyl isothiocyanate) is obtained as an ochre colourant.

reactant | 4-cyano-2,5-difluoro-aniline | 65 mmol, 10.0 g | C(#N)C1=CC(=C(N)C=C1F)F | C7H4F2N2
reactant | thiophosgene | 71 mmol, 8.2 g | C(=S)(Cl)Cl | CCl2S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-cyano-2,5-difluoro-phenyl isothiocyanate | C(#N)C1=CC(=C(C=C1F)N=C=S)F | C8H2F2N2S
